US04956360
3-Amino-ε-caprolactam (11.0 g) and triethylamine (15.7 ml) were added to 200 ml of methylenechloride. Then a solution of 2-fluorobenzoyl chloride (15.0 g) in methylenechloride (30 ml) was added dropwise to the mixture under ice-cooling and stirring. Thereafter, the mixture was stirred for 1.5 hrs. at room temperature, and the resultant precipitate was collected by filtration to give 3-(2-fluorobenzoyl)amino-ε-caprolactam as crude crystals. This crystals and phosphorus pentasulfide (16.5 g) were added to 200 ml of pyridine, and the whole was refluxed for 12 hrs. After cooling, the pyridine was removed by distillation, and to the residue was added a saturated sodium hydrogen carbonate solution and extracted with chloroform. The extract was washed with water, dried, and the solvent was distilled off under reduced pressure. The residue was purified by a column chromatography on silica gel, and then recrystallized from ethyl ether to give the title compound (4.55 g, 24.7 %).

reactant | 3-Amino-ε-caprolactam | 11.0 g | NC1CC(=O)NCCC1 | C6H12N2O
reactant | triethylamine | 15.7 ml | C(C)N(CC)CC | C6H15N
reactant | 2-fluorobenzoyl chloride | 15.0 g | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
solvent | methylenechloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylenechloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 3-(2-fluorobenzoyl)amino-ε-caprolactam | FC1=C(C(=O)NC2CC(=O)NCCC2)C=CC=C1 | C13H15FN2O2
